US06699904B2
2-Benzylsulfanyl-3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-propionic acid ethyl ester:
Synthesized from 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-hydroxy-propionic acid ethyl ester using a procedure analogous to that used for Example 50 and substituting benzylthiol as the nucleophile to give an approximate 1:1 mixture of ethyl and methyl ester as a clear film (58 mg, 95%).

reactant | 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-hydroxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)O)=O | C25H41NO5
reactant | benzylthiol | C1=CC=C(C=C1)CS | C7H8S
product | 2-Benzylsulfanyl-3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)SCC1=CC=CC=C1)=O | C32H47NO4S
